US07622466B2
c) 5-(3-Chloro-propoxy)-2-(4,4-difluoro-piperidine-1-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic Acid tert-butyl Ester
The title compound was synthesized in analogy to example 1, intermediate a), from 2-(4,4-difluoro-piperidine-1-carbonyl)-5-hydroxy-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester, potassium carbonate and 1-bromo-3-chloropropane in 2-butanone to give the desired product as a colorless foam (63%).

reactant | 2-(4,4-difluoro-piperidine-1-carbonyl)-5-hydroxy-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)O)C(=O)N2CCC(CC2)(F)F | C18H21F2N3O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 5-(3-Chloro-propoxy)-2-(4,4-difluoro-piperidine-1-carbonyl)-pyrrolo[2,3-b]pyridine-1-carboxylic Acid tert-butyl Ester | 63% | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)OCCCCl)C(=O)N2CCC(CC2)(F)F | C21H26ClF2N3O4
